US06869975B2
[4-(4-Hydroxy-3-methyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester (1.1).
An oven-dried 100 mL round-bottomed flask was charged with bis-(4-hydroxy-3-methylphenyl)-sulfide (8.6 g, 34.9 mmol), finely powdered Cs2CO3 (11.9 g, 36.7 mmol), and anhydrous DMF (35 mL). Next, tert-butyl bromoacetate (5.2 mL, 34.9 mmol, Aldrich) was added dropwise, and the reaction was stirred vigorously overnight at room temperature. The reaction was poured into 500 mL of water and extracted with 3×50 mL of methylene chloride. The combined organics were washed with 2×150 mL of water, dried over Na2SO4, and concentrated to a slightly yellow oil. The mixture was then purified by flash chromatography (SiO2 gel 60, eluted with 10% hexanes in DCM—5% hexanes in DCM—100% DCM). The fractions containing only desired product 1.1 were combined and concentrated to a white solid (3.5 g). The mixed fractions were combined, concentrated, and resubjected to the same chromatography conditions to yield an additional 2.0 g of pure 1.1. 1H NMR (400 MHz) (CDCl3) δ 7.13 (2H, m); 7.06 (2H, m); 6.70 (1H, d, J=8.3 Hz); 6.59 (1H, d, J=8.4 Hz); 4.50 (2H, s); 2.23 (3H, s); 2.20 (3H, s); 1.48 (9H, s).

reactant | bis-(4-hydroxy-3-methylphenyl)-sulfide | 34.9 mmol, 8.6 g | OC1=C(C=C(C=C1)SC1=CC(=C(C=C1)O)C)C | C14H14O2S
reactant | Cs2CO3 | 36.7 mmol, 11.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
reactant | tert-butyl bromoacetate | 34.9 mmol, 5.2 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | water | 500 mL | O | H2O
product | [4-(4-Hydroxy-3-methyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC1=CC(=C(C=C1)O)C)C)=O | C20H24O4S
